US08242125B2
112-C. {6-[1-(5-tert-Butyl-isoxazol-3-ylcarbamoyl)-4-fluoro-2-methyl-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-methyl-carbamic acid tert-butyl ester
To a solution of [6-(4-fluoro-2-methyl-1H-indol-5-yloxy)-pyrimidin-4-ylmethyl]-methyl-carbamic acid tert-butyl ester (275 mg, 0.712 mmol) in THF (7 mL), NaH (85 mg, 2.13 mmol) is added under nitrogen at 0° C. The resulting mixture is stirred for 2 h. Then (5-tert-butyl-isoxazol-3-yl)-carbamic acid phenyl ester (370 mg, 1.42 mmol) is added to this mixture. The resulting mixture is allowed to warm to rt and stir for 18 h. The mixture is then quenched with saturated aqueous ammonium chloride. The aqueous phase is extracted with EtOAc (2×). The combined organic layers are washed with brine, dried over anhydrous sodium sulphate, concentrated and purified by FCC (0-70% EtOAc/heptane) to provide the title compound. MS (ESI) m/z 553.1 (M+1).

reactant | [6-(4-fluoro-2-methyl-1H-indol-5-yloxy)-pyrimidin-4-ylmethyl]-methyl-carbamic acid tert-butyl ester | 0.712 mmol, 275 mg | C(C)(C)(C)OC(N(C)CC1=NC=NC(=C1)OC=1C(=C2C=C(NC2=CC1)C)F)=O | C20H23FN4O3
reactant | NaH | 2.13 mmol, 85 mg | [H-].[Na+]
reactant | (5-tert-butyl-isoxazol-3-yl)-carbamic acid phenyl ester | 1.42 mmol, 370 mg | C1(=CC=CC=C1)OC(NC1=NOC(=C1)C(C)(C)C)=O | C14H16N2O3
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | {6-[1-(5-tert-Butyl-isoxazol-3-ylcarbamoyl)-4-fluoro-2-methyl-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=NC=NC(=C1)OC=1C(=C2C=C(N(C2=CC1)C(NC1=NOC(=C1)C(C)(C)C)=O)C)F)=O | C28H33FN6O5
